US07807673B2
Step D: 2,2,2-Trifluoro-N-{3-[3-(2-{[3-(1,3-oxazol-5-yl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}acetamide hydrochloride
To a mixture of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide (0.5 g, 1.2 mmol) in i-PrOH (4 mL) was added 5-(3-aminophenyl)oxazole (0.25 g, 1.56 mmol) and 2 drops of conc. HCl. The reaction was heated in a microwave to 120° C. for 40 min. and allowed to cool to rt. The resulting solid was filtered off, washed with i-PrOH and dried to give the title compound as a tan solid (0.68 g) in 98% yield. ES-LC/MS m/z=542 [M+H]+.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide | 1.2 mmol, 0.5 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C(F)(F)F)=O | C19H11ClF3N5O
reactant | 5-(3-aminophenyl)oxazole | 1.56 mmol, 0.25 g | NC=1C=C(C=CC1)C1=CN=CO1 | C9H8N2O
solvent | i-PrOH | 4 mL | CC(C)O | C3H8O
catalyst | HCl | 2 drops | Cl | ClH
product | 2,2,2-Trifluoro-N-{3-[3-(2-{[3-(1,3-oxazol-5-yl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}acetamide hydrochloride | 0.68 g, 98% yield | Cl.FC(C(=O)NC1=CC(=CC=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)C1=CN=CO1)(F)F | InChI=1S/C28H18F3N7O2.ClH/c29-28(30,31)26(39)34-19-7-4-6-18(14-19)25-24(22-9-1-2-12-38(22)37-25)21-10-11-33-27(36-21)35-20-8-3-5-17(13-20)23-15-32-16-40-23;/h1-16H,(H,34,39)(H,33,35,36);1H
